US09024019B2
Step B: tert-butyl 4-acetamido-6-acetyl-3-oxo-5H-1,2,4-triazine-2-carboxylate
To a solution of tert-butyl 4-acetamido-6-(1-hydroxyethyl)-3-oxo-5H-1,2,4-triazine-2-carboxylate (601 mg, 1.50 mmol) in ethyl acetate (3.9 mL) was added a solution of NaHCO3 (378 mg, 4.50 mmol) and NaBr (170 mg, 1.65 mmol) in water (2.6 mL). After cooling of the biphasic mixture to 0° C., 2,2,6,6-Tetramethyl-piperidin-1-yl)oxyl (“TEMPO”) (12.0 mg, 0.0750 mmol) was added in one portion followed by dropwise addition of NaOCl (6 wt % in water, 2.79 mL, 2.25 mmol) to the vigorously stirred solution. After completion of the addition, stirring at 0° C. was continued for 30 min. Subsequently, a solution of aqueous Na2SO3 was added until the reaction mixture had completely discolored. Additional solid Na2SO3 was added to saturate the aqueous phase. The mixture was transferred to a separation funnel and the layers were separated. The organic layer was washed with brine (100 mL), dried (Na2SO4), filtered and concentrated under reduced pressure. LCMS (Method I) RT 1.42 min. [(M-Boc)+Na]+ 221.

reactant | tert-butyl 4-acetamido-6-(1-hydroxyethyl)-3-oxo-5H-1,2,4-triazine-2-carboxylate | 1.50 mmol, 601 mg | C(C)(=O)NN1C(N(N=C(C1)C(C)O)C(=O)OC(C)(C)C)=O | C12H20N4O5
reactant | NaHCO3 | 4.50 mmol, 378 mg | C(=O)(O)[O-].[Na+]
reactant | NaBr | 1.65 mmol, 170 mg | [Na+].[Br-]
reactant | NaOCl | 2.25 mmol, 2.79 mL | [O-]Cl.[Na+]
reactant | Na2SO3 | [O-]S(=O)[O-].[Na+].[Na+]
solvent | ethyl acetate | 3.9 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 2.6 mL | O | H2O
product | tert-butyl 4-acetamido-6-acetyl-3-oxo-5H-1,2,4-triazine-2-carboxylate | C(C)(=O)NN1C(N(N=C(C1)C(C)=O)C(=O)OC(C)(C)C)=O | C12H18N4O5
